US08648087B2
Step B: Preparation of N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4-((tert-butyldiphenylsilyloxy)methyl)-4-methyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine:
Prepared according to the method of Example 1, using (E)-N′-(4-(3-(1-(tert-butyldiphenylsilyloxy)-3-hydroxy-2-methylpropan-2-yl)thioureido)-2-cyanophenyl)-N,N-dimethylformimidamide in place of 1-(3-cyano-4-((dimethylamino)methyleneamino)phenyl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea and 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylbenzenamine in place of 4-(imidazo[1,2-a]pyridin-7-yloxy)-3-methylaniline.

reactant | (E)-N′-(4-(3-(1-(tert-butyldiphenylsilyloxy)-3-hydroxy-2-methylpropan-2-yl)thioureido)-2-cyanophenyl)-N,N-dimethylformimidamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO)(C)NC(NC1=CC(=C(C=C1)/N=C/N(C)C)C#N)=S | C31H39N5O2SSi
reactant | 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylbenzenamine | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)N)C | C13H12N4O
product | N4-(4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4-((tert-butyldiphenylsilyloxy)methyl)-4-methyl-4,5-dihydrooxazol-2-yl)quinazoline-4,6-diamine | N=1C=NN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC=2OCC(N2)(C)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C | C42H42N8O3Si
